US09085583B2
Step 8: 1-(1-cyclopropyl-1-methoxypropan-2-yl)-N-((4-methoxy-6-methyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxamide (Compound 283)
To a solution of 1-(1-cyclopropyl-1-methoxypropan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid (100 mg, 0.35 mmol) in dichloromethane (2 mL) was added HATU (192 mg, 0.52 mmol), TEA (105.28 mg, 1.04 mmol). After stirred for 50 min at room temperature, 3-(aminomethyl)-4-methoxy-6-methylpyridin-2(1H)-one hydrochloride (87.5 mg, 0.52 mmol) was added. The mixture was stirred at room temperature for 3 hours. After the reaction completed, the solution was partitioned between EtOAc and H2O. The organic was separated, dried over Na2SO4 and evaporated under vacuum.

reactant | 1-(1-cyclopropyl-1-methoxypropan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | 0.35 mmol, 100 mg | C1(CC1)C(C(C)N1C(=C(C=2C1=NC=CC2)C(=O)O)C)OC | C16H20N2O3
reactant | HATU | 0.52 mmol, 192 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-(aminomethyl)-4-methoxy-6-methylpyridin-2(1H)-one hydrochloride | 0.52 mmol, 87.5 mg | Cl.NCC=1C(NC(=CC1OC)C)=O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 1-(1-cyclopropyl-1-methoxypropan-2-yl)-N-((4-methoxy-6-methyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxamide | C1(CC1)C(C(C)N1C(=C(C=2C1=NC=CC2)C(=O)NCC=2C(NC(=CC2OC)C)=O)C)OC | C24H30N4O4
